US07238716B2
To a mixture of 2-(2-furyl)-5-methyl-4-oxazolylmethanol (10.8 g), methyl 2-chloro-4-pyridinecarboxylate (10.3 g) and a solution of tetrahydrofuran (100 mL) and N,N-dimethylformamide (100 mL) was added sodium hydride (60%, oil, 2.88 g) at 0° C. and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-4-pyridinecarboxylate (2.86 g, yield 15%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, v/v). The crystals were recrystallized from ethyl acetate-hexane. melting point: 80-81.

reactant | 2-(2-furyl)-5-methyl-4-oxazolylmethanol | 10.8 g | O1C(=CC=C1)C=1OC(=C(N1)CO)C | C9H9NO3
reactant | methyl 2-chloro-4-pyridinecarboxylate | 10.3 g | ClC1=NC=CC(=C1)C(=O)OC | C7H6ClNO2
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 2.88 g | [H-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-4-pyridinecarboxylate | 2.86 g, yield 15% | O1C(=CC=C1)C=1OC(=C(N1)COC1=NC=CC(=C1)C(=O)OCC)C | C17H16N2O5
